US06093732
3-(3-{[(4-Chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)-2-propynyl formate
A solution of N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide from Example No. 53 (0.15 g) in 6 mL formic acid is heated at 100° C. for 6 hours. Once the reaction is cooled to room temperature, it is partitioned between CH2Cl2 and water. The organic layer is washed with water, saturated NaHCO3, and water again. The organic layer is dried over MgSO4, filtered and concentrated under reduced pressure to give a residue which is crystallized with CH2Cl2 /hexanes to give the product (0.070 g, 44%).

reactant | N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)C#CCO)F)C=C1 | C20H14ClFN2O3
reactant | formic acid | 6 mL | C(=O)O | CH2O2
product | 3-(3-{[(4-Chlorobenzyl)amino]carbonyl}-8-fluoro-4-hydroxy-6-quinolinyl)-2-propynyl formate | 0.070 g, 44% | C(=O)OCC#CC=1C=C2C(=C(C=NC2=C(C1)F)C(=O)NCC1=CC=C(C=C1)Cl)O | C21H14ClFN2O4
